US06780867B2
1.7 g of sodium hydride (50% suspension) are added to a solution of 5.0 g of “AB” and 2.8 g of butyl glycolate in 100 ml of THF, and the mixture is refluxed for 3 hours. The solvent is removed, and the mixture is subjected to conventional work-up, giving 5.0 g of butyl (4-oxo-3,4,5,6,7,8-hexahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethoxy)acetate (“AC”). 1 ml of DMF is added to a solution of 5.0 g of “AC” in 50 ml of thionyl chloride, and the mixture is stirred at 45° for 2 hours. After the solvent has been removed, the mixture is subjected to conventional work-up, giving 4.5 g of butyl (4-chloro-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethoxy)acetate (“AD”).

reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | AC | O=C1C2=C(N=C(N1)COCC(=O)OCCCC)SC1=C2CCCC1 | C17H22N2O4S
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | butyl (4-chloro-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethoxy)acetate | 4.5 g | ClC=1C2=C(N=C(N1)COCC(=O)OCCCC)SC1=C2CCCC1 | C17H21ClN2O3S
